US05210290
2-[2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetylamino]ethanesulfonic Acid
Under the conditions of Example 2(a), 3.012 g (10 mmol) of 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid, 1.252 g (10 mmol) of 2aminoethanesulfonic acid, 1.531 g (10 mmol) of hydroxybenzotriazole, hydrate, as well as 1.012 g (10 mmol) of triethylamine and 2.063 g (10 mmol) of dicyclohexylcarbodiimide are reacted and worked up analogously. The crude product is dissolved in distilled water, extracted with ethyl acetate, and converted into the free acid by treatment with acidic cation exchanger. The title compound is obtained by freeze-drying the aqueous solution.

reactant | 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid | 10 mmol, 3.012 g | FC1=CC(=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
reactant | 2aminoethanesulfonic acid | 10 mmol, 1.252 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | hydroxybenzotriazole, hydrate | 10 mmol, 1.531 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 10 mmol, 1.012 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 10 mmol, 2.063 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | water | O | H2O
product | 2-[2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetylamino]ethanesulfonic Acid | FC1=CC(=C(C=C1)NS(=O)(=O)CC(=O)NCCS(=O)(=O)O)C(F)(F)F | C11H12F4N2O6S2
